US07709483B2
(o) 1,1-Dimethylethyl {1-[(7-fluoro-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-6-yl)methyl]-4-piperidinyl}carbamate
A mixture of 1,1-dimethylethyl (1-{2-[6-fluoro-3-(methyloxy)-5-quinoxalinyl]-3-hydroxypropyl}-4-piperidinyl)carbamate (10.8 g, 25 mmol), methanesulfonic anhydride (5.12 g, 28.7 mmol) and N,N-diisopropylethylamine (9.8 ml, 56 mmol) in dry chloroform (140 ml) was stirred at room temperature for 0.5 h, then heated under reflux for 3 days. The mixture was washed with aqueous sodium bicarbonate and the aqueous phase was extracted with dichloromethane. The combined organic fractions were dried and evaporated. The residue was chromatographed on silica (500 g), eluting with 0-5% methanol/dichloromethane to give the product (8.13 g, 81%).

reactant | 1,1-dimethylethyl (1-{2-[6-fluoro-3-(methyloxy)-5-quinoxalinyl]-3-hydroxypropyl}-4-piperidinyl)carbamate | 25 mmol, 10.8 g | FC=1C(=C2N=C(C=NC2=CC1)OC)C(CN1CCC(CC1)NC(OC(C)(C)C)=O)CO | C22H31FN4O4
reactant | methanesulfonic anhydride | 28.7 mmol, 5.12 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | N,N-diisopropylethylamine | 56 mmol, 9.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 140 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,1-Dimethylethyl {1-[(7-fluoro-3-oxo-5,6-dihydro-3H-pyrrolo[1,2,3-de]quinoxalin-6-yl)methyl]-4-piperidinyl}carbamate | 8.13 g, 81% | FC1=C2C=3N(C(C=NC3C=C1)=O)CC2CN2CCC(CC2)NC(OC(C)(C)C)=O | C21H27FN4O3
